US06436915B1
Synthesis of 4-[(3-phenoxyphenyl)hydrazono]pyrazole
The title compound was prepared using 131 mg (0.5 mmol) of 2-[(3-phenoxyphenyl)-hydrazono]malononitrile, which was derived from 3-phenoxyaniline (185 mg, 1.0 mmol) and malononitrile (1.5 mmol) as described in Example 8, and hydrazine hydrate. Precipitate formed in the reaction tube approximately 5 min after the addition of hydrazine hydrate. The resulting solid was isolated by filtration, recrystallized from ethanol, and dried to yield 87 mg (59%) of the title compound as a mustard coloured solid.

reactant | 2-[(3-phenoxyphenyl)-hydrazono]malononitrile | 0.5 mmol, 131 mg | O(C1=CC=CC=C1)C=1C=C(C=CC1)NN=C(C#N)C#N | C15H10N4O
reactant | 3-phenoxyaniline | 1.0 mmol, 185 mg | O(C1=CC=CC=C1)C=1C=C(N)C=CC1 | C12H11NO
reactant | malononitrile | 1.5 mmol | C(CC#N)#N | C3H2N2
reactant | hydrazine hydrate | O.NN
product | 4-[(3-phenoxyphenyl)hydrazono]pyrazole | 87 mg, 59% | O(C1=CC=CC=C1)C=1C=C(C=CC1)NN=C1C=NN=C1 | C15H12N4O
